US03998951
To a stirred mixture of 16.3 g of 2-aminobenzamide, 82 ml of saturated aqueous sodium acetate solution and 82 ml of acetic acid was added a solution of 21 g of 4-chlorobenzoyl chloride in 14 ml of acetone. The mixture was stirred at room temperature for one hour after addition was complete. The tan precipitate was collected by filtration and recrystallized from ethanol to give 24.1 g of light tan 2-(4-chlorobenzamido)benzamide, m.p. 205°-207°, which was used without further purification.

reactant | 2-aminobenzamide | 16.3 g | NC1=C(C(=O)N)C=CC=C1 | C7H8N2O
reactant | sodium acetate | 82 ml | C(C)(=O)[O-].[Na+]
reactant | acetic acid | 82 ml | C(C)(=O)O | C2H4O2
reactant | 4-chlorobenzoyl chloride | 21 g | ClC1=CC=C(C(=O)Cl)C=C1 | C7H4Cl2O
solvent | acetone | 14 ml | CC(=O)C | C3H6O
product | 2-(4-chlorobenzamido)benzamide | ClC1=CC=C(C(=O)NC2=C(C(=O)N)C=CC=C2)C=C1 | C14H11ClN2O2
